US04242350
A solution of 3-[(2-aminoethyl)thiomethyl]-5-guanidino-1,2,4-thiadiazole (0.914 g.) in ethanol (10 ml.) was heated under reflux with methyl isothiocyanate (0.288 g.) for 20 minutes and the resulting solution was chromatographed on nine perparative Merck 60 F-254 silica plates (30 cm.×30 cm.) developed with toluene/ethanol/ethyl acetate/ammonia (s.g. 0.88) 60:40:20:10 v/v/v/v. The bands with an Rf value of 0.6 were scraped off, extracted with ethanol and the extracts evaporated to a gum which crystallised on trituration with ethyl acetate to give 3-[2-(3-methyl-thioureido)ethylthiomethyl]-5-guanidino-1,2,4-thiadiazole. The n.m.r. spectrum in d6 dimethyl sulphoxide using tetramethylsilane as an internal standard (δ=0) had the following resonances (δ):-2.76 (2H, triplet); 2.82 (3H, singlet); 3.35 (2H, multiplet); 3.71 (2H, singlet); 7.12 and 7.5 (6H, multiplets).

reactant | 3-[(2-aminoethyl)thiomethyl]-5-guanidino-1,2,4-thiadiazole | 0.914 g | NCCSCC1=NSC(=N1)NC(=N)N | C6H12N6S2
reactant | methyl isothiocyanate | 0.288 g | CN=C=S | C2H3NS
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 3-[2-(3-methyl-thioureido)ethylthiomethyl]-5-guanidino-1,2,4-thiadiazole | CNC(NCCSCC1=NSC(=N1)NC(=N)N)=S | C8H15N7S3
